US06458798B1
N-(2-Amino-5,6-dimethylpyrimidine-4-yl)-N-pentylamine
A mixture of N-(2-chloro-5,6-dimethylpyrimidine-4-yl)-N-pentylamine (131 mg, 0.575 mmol) and 5M ammonia-ethanol (40 ml) was kept at 170° C. for 10 hours. The reaction mixture was concentrated in vacuo, purified by preparative TLC (20%MeOH/CHCl3) to give the object compound (4.2 mg, 3.5%).

reactant | N-(2-chloro-5,6-dimethylpyrimidine-4-yl)-N-pentylamine | 0.575 mmol, 131 mg | ClC1=NC(=C(C(=N1)NCCCCC)C)C | C11H18ClN3
reactant | ammonia ethanol | 5M, 40 ml | N.C(C)O
product | N-(2-Amino-5,6-dimethylpyrimidine-4-yl)-N-pentylamine | 4.2 mg, 3.5% | NC1=NC(=C(C(=N1)NCCCCC)C)C | C11H20N4
